US07947834B2
0.284 g of 1-acetyl-4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-1,2,3,4-tetrahydroquinoxaline, dissolved in 4.05 ml of a 0.2N solution of hydrochloric acid in ether, is introduced into a 25 ml round-bottomed flask. Stirring is maintained for ten minutes. After evaporating, 0.126 g of 1-acetyl-4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-1,2,3,4-tetrahydroquinoxaline hydrochloride is obtained.

reactant | 1-acetyl-4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-1,2,3,4-tetrahydroquinoxaline | 0.284 g | C(C)(=O)N1CCN(C2=CC=CC=C12)C(=O)N1CC(CC1)C=1C=NC=CC1 | C20H22N4O2
reactant | hydrochloric acid | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 1-acetyl-4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-1,2,3,4-tetrahydroquinoxaline hydrochloride | 0.126 g | Cl.C(C)(=O)N1CCN(C2=CC=CC=C12)C(=O)N1CC(CC1)C=1C=NC=CC1 | InChI=1S/C20H22N4O2.ClH/c1-15(25)23-11-12-24(19-7-3-2-6-18(19)23)20(26)22-10-8-17(14-22)16-5-4-9-21-13-16;/h2-7,9,13,17H,8,10-12,14H2,1H3;1H
